US07705028B2
2b) Methyl 6-[2-chloro-4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate
A mixture of methyl 6-(2-chloro-4-hydroxyphenyl)-1-naphthalenecarboxylate (0.25 g, 0.799 mmol), polymer-bound triphenylphosphine (0.27 g, 0.799 mmol), [3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methanol (0.23 g, 0.799 mmol) and 10 mL of dichloromethane was cooled to 0° C. Diisopropyl azodicarboxylate (0.16 mL, 0.799 mmol) was slowly added to the reaction mixture. The reaction mixture was stirred for 10 minutes at the above temperature and then warmed to room temperature and stirred for 18 h. The reaction mixture was filtered and the filtrate was concentrated to give oil.

reactant | methyl 6-(2-chloro-4-hydroxyphenyl)-1-naphthalenecarboxylate | 0.799 mmol, 0.25 g | ClC1=C(C=CC(=C1)O)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C18H13ClO3
reactant | triphenylphosphine | 0.799 mmol, 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methanol | 0.799 mmol, 0.23 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CO)C(C)C | C13H13Cl2NO2
reactant | Diisopropyl azodicarboxylate | 0.799 mmol, 0.16 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl 6-[2-chloro-4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate | ClC1=C(C=CC(=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C31H24Cl3NO4
